US06291507B1
Ethyl 1-(3,4-dichlorobenzyl)1,4,5,6-tetrahydrocyclopenta[b]pvrrole-2-carboxylate (Compound 1 in Table I)
Sodium hydride (25 mg, 60%), was added to a solution of ethyl cyclopenta[b]pyrrole-2-carboxylate (96 mg) (T. Aubert et al., J. Chem. Soc. Perkin Trans. 1, 1989, 1369) and the reaction stirred for 30 minutes. 3,4-Dichlorobenzyl bromide (154 mg) was added and stirring continued for a further 2 hours. The reaction was quenched by addition of water and extracted with ether. Combined organic extracts were dried (MgSO4) and concentrated and the residue purified by column chromatography using isohexane-5% ethyl acetate as eluent to give the product as a white crystalline solid (0.15 g, 83%), NMR d(DMSO) 1.18 (3H, t), 2.30 (1H, m), 2.53 (2H, m), 4.10 (2H, q), 5.40 (2H, s), 6.67 (1H, s), 6.92 (1H, dd), 7.25 (1H, s), 7.57 (1H, d); M/z (+) 338 (M+).

reactant | Sodium hydride | 25 mg | [H-].[Na+]
reactant | ethyl cyclopenta[b]pyrrole-2-carboxylate | 96 mg | N1=C2C(C=C1C(=O)OCC)=CC=C2 | C10H9NO2
reactant | 3,4-Dichlorobenzyl bromide | 154 mg | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
product | Ethyl 1-(3,4-dichlorobenzyl)1,4,5,6-tetrahydrocyclopenta[b]pvrrole-2-carboxylate | 0.15 g, 83% | ClC=1C=C(CN2C3=C(C=C2C(=O)OCC)CCC3)C=CC1Cl | C17H17Cl2NO2
